US06756378B2
To a mixture of tert-butyl 4-amino-3-methylphenylacetate (1.88 g, 8.51 mmol), 2,6-dichlorophenyl isocyanate (1.60 g, 8.51 mmol) in THF (40 ml) was added Et3N (0.24 ml, 1.70 mmol) at room temperature. After 3 h stirring, the reaction mixture was concentrated in vacuo. The residue was triturated by the addition of n-hexane, to give tert-butyl 4-[N′-(2,6-dichlorophenyl)ureido]-3-methylphenylacetate (2.58 g, 74%) as a colorless powder. mp 243-244° C. (dec.); 1H-NMR (CDCl3) δ1.45 (s, 9H), 2.30 (s, 3H), 3.49 (s, 2H), 6.24 (s, 2H), 7.12-7.16 (m, 3H), 7.35 (d, J=8.3 Hz, 2H), 7.51 (d, J 7.8H, 1H).

reactant | tert-butyl 4-amino-3-methylphenylacetate | 8.51 mmol, 1.88 g | NC1=C(C=C(C=C1)CC(=O)OC(C)(C)C)C | C13H19NO2
reactant | 2,6-dichlorophenyl isocyanate | 8.51 mmol, 1.60 g | ClC1=C(C(=CC=C1)Cl)N=C=O | C7H3Cl2NO
reactant | Et3N | 1.70 mmol, 0.24 ml | CCN(CC)CC | C6H15N
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-[N′-(2,6-dichlorophenyl)ureido]-3-methylphenylacetate | 2.58 g, 74% | ClC1=C(C(=CC=C1)Cl)NC(NC1=C(C=C(C=C1)CC(=O)OC(C)(C)C)C)=O | C20H22Cl2N2O3
